US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-5-iodo-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide
To a stirring suspension of N-(5-chloropyridin-2-yl)-5-iodo-2-[(4-piperidinylcarbonyl)amino]benzamide trifluoroacetate (1.5 g, 2.52 mmol) in methanol (25 mL) was added acetone (25 mL), followed by acetic acid (0.6 mL, 10 mmol), and then sodium cyanoborohydride (0.67 g, 10 mmol). After stirring overnight, the solution was treated with saturated aqueous ammonium acetate solution, concentrated, and partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate, filtered, and concentrated. The crude product was purified by chromatography over silica gel, eluting with a step gradient of 5-15% 2 M solution of ammonia/methanol in dichloromethane. The chromatography product was slurried in diethyl ether and filtered to give 0.87 g (65%) of a white solid.

reactant | N-(5-chloropyridin-2-yl)-5-iodo-2-[(4-piperidinylcarbonyl)amino]benzamide trifluoroacetate | 2.52 mmol, 1.5 g | FC(C(=O)O)(F)F.ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)I)NC(=O)C1CCNCC1)=O
reactant | acetic acid | 10 mmol, 0.6 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 10 mmol, 0.67 g | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | methanol | 25 mL | CO | CH4O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | N-(5-Chloropyridin-2-yl)-5-iodo-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide | 0.87 g, 65% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)I)NC(=O)C1CCN(CC1)C(C)C)=O | C21H24ClIN4O2
